US04749791
7.00 g (0.032 mol) of 8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline were dissolved in 50 ml of pyridine and 6.75 g (0.048 mol) of benzoyl chloride were added dropwise thereto at 0°. After stirring at room temperature overnight the mixture was extracted with water and chloroform, dried with magnesium sulphate and the solvent was distilled off in vacuo. Chromatography (silica gel, chloroform-hexane, 1:1) and crystallization (chloroform-hexane) gave 4-benzoyl-8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]-quinoline as white crystals of melting point 194°-196°.

reactant | 8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | 0.032 mol, 7.00 g | ClC1=CC2=C(C=3CCCNC3CC2)C=C1 | C13H14ClN
reactant | benzoyl chloride | 0.048 mol, 6.75 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-benzoyl-8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]-quinoline | C(C1=CC=CC=C1)(=O)N1CCCC=2C3=C(CCC12)C=C(C=C3)Cl | C20H18ClNO
